### PR TITLE
Function instances and Cartesian laws

### PR DESCRIPTION
**Pull request by bolt12**
This PR attempts to tackle #4 and #5 . I am mostly looking for improvement suggestions on how to go from this first attempt (still a but rusty with Agda).

### CODE REVIEW

File: Categorical/Laws.agda [hunk 1]
```diff
@@ -46,6 +46,8 @@ record Cartesian {obj : Set o} ⦃ _ : Products obj ⦄ (_⇨′_ : obj → obj
   field
     ⦃ ⇨Category ⦄ : Category _⇨_ q
     exl▵exr : ∀ {a b : obj} → exl ▵ exr ≈ id {a = a × b}
+    elim-exl : ∀ {f : a ⇨ b} {g : a ⇨ c} -> exl ∘ ( f ▵ g ) ≈ f
+    elim-exr : ∀ {f : a ⇨ b} {g : a ⇨ c} -> exr ∘ ( f ▵ g ) ≈ g
```
Comment (conal) [inline Categorical/Laws.agda:50]: I'd go for more specific names, e.g., `exl∘▵` and `exr∘▵`.

I'd drop the spaces just inside the parentheses, changing "`( f ▵ g )`" to "`(f ▵ g)`". Agda's lexical flexibility  requires spaces in many places, but not immediately after "`(`" and before "`)`".

Otherwise, looks fine.

File: Functions/Laws.agda [hunk 2]
```diff
@@ -8,6 +8,31 @@ open import Functions.Raw public
...
+
+    category : Category Function zero
+    category =
+      record {
+        identityˡ = refl≡
+        ; identityʳ = refl≡
+        ; assoc = refl≡
+        ; ∘≈ = λ {_} {_} {_} {f} {g} {h} {k} x x₁
+               → trans x (cong k x₁)
+      }
```
Comment (conal) [inline Functions/Laws.agda:27]: I like the visual style of aligning the opening brace, the semicolons, and the closing brace. The instance definitions in `Functions.Raw` provide examples.

Comment (conal) [reply Functions/Laws.agda:27]: I’d drop the unused explicit implicit parameters here and rename the explicit parameters more informatively, e.g.,

``` agda
∘≈ = λ {k = k} h≈k f≈g → trans h≈k (cong k f≈g)
```

Naming `k` here allows omitting the previous implicits. Sometimes Agda is unhappy with this kind of recipe, and I haven’t tried it in this case.

Since `trans` is a form of sequential composition and often gets chained, I tend to like the `_•_` form defined in `Equivalent`, so

``` agda
∘≈ = λ {k = k} h≈k f≈g → cong k f≈g • h≈k 
```

Even prettier might be to really formulate equivalence relations as a `Category` instance, and use `_∘_` instead of `_•_`. On the other hand, my first attempt at doing so broke instance inference pretty badly.

File: Functions/Laws.agda [hunk 3]
```diff
@@ -8,6 +8,31 @@ open import Functions.Raw public
...
+    cartesian : Cartesian Function zero
+    cartesian =
+      record {
+        exl▵exr = λ { {a} {b} {fst , snd} → refl≡ }
+        ; elim-exl = refl≡
+        ; elim-exr = refl≡
+        ; ▵≈ = λ {_} {_} {_} {f} {g} {h} {k} x x₁ {a}
+               → trans (cong (λ x₂ → h a , x₂) x₁)
+                       (cong (λ x₂ → x₂ , g a) x)
+      }
```
Comment (conal) [inline Functions/Laws.agda:38]: As above with alignment, `trans`, implicits, and equivalence-valued variable names.

Comment (conal) [reply Functions/Laws.agda:38]: I'd use `h a ,_` and `_, g a`.

**Review by conal — CHANGES_REQUESTED** [review]
Thanks for the PR!

File: Categorical/Laws.agda (hunk 1 above)
Comment (conal) [reply Categorical/Laws.agda:50]: One more: I prefer "`→`" over "`->`".

Comment (bolt12) [reply Categorical/Laws.agda:50]: Great naming 😄  I will change to that!

File: Functions/Laws.agda (hunk 2 above)
Comment (bolt12) [reply Functions/Laws.agda:27]: Ah nice!! But, hmm it seems `_•_` does not type check correctly so I can not use it. It expects `f g h` to be of the same type, it seems feasible, I am just not sure what can I do to make the compiler happy

File: Functions/Laws.agda (hunk 3 above)
Comment (bolt12) [reply Functions/Laws.agda:38]: Got it!

File: Categorical/Laws.agda (hunk 1 above)
Comment (bolt12) [reply Categorical/Laws.agda:50]: Thanks! Keep bugging me with these spacing and unicode issues 😄

File: Functions/Laws.agda [hunk 4]
```diff
@@ -3,11 +3,58 @@
...
+      } where
+        ▵≈-aux : {a c d : Set}
+                 {f g : a → c}
+                 {h k : a → d}
+               → ({x : a} → h x ≡ k x)
+               → ({x : a} → f x ≡ g x)
+               → {x : a}
+               → (h x , f x) ≡ (k x , g x)
+        ▵≈-aux {g = g} {h = h} h≈k f≈g {x = a} = trans≡ (cong≡ (h a ,_) f≈g)
+                                                        (cong≡ (_, g a) h≈k)
```
Comment (conal) [inline Functions/Laws.agda:60]: Try `cong₂` from `Relation.Binary.PropositionalEquality.Core` (re-exported from `Relation.Binary.PropositionalEquality`).

I’d drop the local `▵≈-aux` and put the definition directly into the `record` expression: “▵≈ = λ h≈k f≈g → cong₂ …\`”.

Ditto for `∘≈`.

File: Functions/Laws.agda (hunk 2 above)
Comment (conal) [reply Functions/Laws.agda]: Oh, yes. I think the `trans` you're using here is on `_≡_`, not on morphisms.

File: Functions/Laws.agda (hunk 4 above)
Comment (bolt12) [reply Functions/Laws.agda:60]: `cong₂` is very nice, thanks!

> Although I’m inclined to make definitions terse in this way to reduce visual noise, I guess doing so makes it a little less clear what exactly is going on.

I can get rid of the visual noise if you prefer!

Comment (conal) [reply Functions/Laws.agda]: > I can get rid of the visual noise if you prefer!

Yes, please, and then I'll merge.

Comment (bolt12) [reply Functions/Laws.agda]: Done! 😄

**Comment by conal** [comment]
Thanks for the contribution, @bolt12 !

I did [a little tidying](https://github.com/conal/agda-hardware/commit/1d279eb758bc595818363391bd2b865c2c9706c5).

**Comment by conal** [comment]
One thing puzzles me. In https://github.com/conal/agda-hardware/blob/1d279eb758bc595818363391bd2b865c2c9706c5/Functions/Laws.agda#L23 I tried removing the outer, pattern-lambda braces, but Agda didn't interpret the `{k = k}` parameter as I expected:

    /Users/conal/Agda/Hardware/Functions/Laws.agda:23,59-60
    Set !=< (_A_14 → _B_16)
    when checking that the expression k has type _A_14 → _B_16

I'm guessing there's a subtlety about regular lambda vs pattern lambda that I've not understood.
